US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid phenethylamide (551-14B):
the title compound (9 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (100 mg, 0.30 mmol), phenethylamine (76 μL, 0.60 mmol) and PS-NMM (0.320 g, 0.60 mmol) in 5 mL of methanol. MS (m/z, ES+): 414.5 (M+1, 100%). Yield=7%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.30 mmol, 100 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | phenethylamine | 0.60 mmol, 76 μL | C(CC1=CC=CC=C1)N | C8H11N
reactant | NMM | 0.60 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid phenethylamide | 9 mg, Yield=7% | C(CC1=CC=CC=C1)NS(=O)(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2N)C)C=C1 | C19H19N5O2S2
